US06001867
(R)-2-[2,6-Dibromo-4-(dibenzothiophen-1-yl)-phenoxy]-3-phenyl-propionic acid
1.0 N Aqueous potassium hydroxide (0.81 mL, 0.81 mmol) was added to a stirred solution of (R)-2-[2,6-dibromo-4-(dibenzothiophen-1-yl)-phenoxy]-3-phenyl-propionic acid methyl ester (0.242 g, 0.406 mmol) in THF (4 mL) and methanol (2.5 mL). After 1.5 h at ambient temperature, the reaction mixture was diluted with water, acidified with 10% aqueous HCl and filtered. The solid was washed with water and triturated with pet. ether. The solid was dried in vacuo at 70° C. to provide the title compound as a white solid (0.190, 80%): [a]D25=+19.73 (10.14 mg/mL CHCl3); NMR (CDCl3): δ 7.89 (dd, J=8, 1 Hz, 1H), 7.83 (ddd., J=8, 1, 1 Hz, 1H), 7.63 (d, J=2 Hz, 1H), 7.62 (d, J=2 Hz, 1H), 7.45 (dd, J=8, 6 Hz, 2H), 7.41-7.154 (m, 8H), 5.33 (t, J=8 Hz, 1H), 3.54 (dd, J=5, 2 Hz, 1H), 3.52 (dd, J=8, 4 Hz, 1H); MS (EI): [M+], 2 bromine isotope pattern, 580 (20%), 582 (40%) 584 (25%); Anal. Calc. for C27H18Br2O3S: C, 55.69, H, 3.11, N, 0.00. Found: C, 55.23, H, 2.97, N, 0.07; Analytical HPLC :98.8%.

reactant | potassium hydroxide | 0.81 mmol, 1.0 N, 0.81 mL | [OH-].[K+]
reactant | (R)-2-[2,6-dibromo-4-(dibenzothiophen-1-yl)-phenoxy]-3-phenyl-propionic acid methyl ester | 0.406 mmol, 0.242 g | COC([C@@H](CC1=CC=CC=C1)OC1=C(C=C(C=C1Br)C1=CC=CC=2SC3=C(C21)C=CC=C3)Br)=O | C28H20Br2O3S
reactant | HCl | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | methanol | 2.5 mL | CO | CH4O
solvent | water | O | H2O
product | (R)-2-[2,6-Dibromo-4-(dibenzothiophen-1-yl)-phenoxy]-3-phenyl-propionic acid | 80% | BrC1=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C(=CC(=C1)C1=CC=CC=2SC3=C(C21)C=CC=C3)Br | C27H18Br2O3S
